US07199147B2
Acetic anhydride (377 μl, 4.00 mmol) was added dropwise to a solution of 4-methoxy-2-methyl-3-(trifluoromethyl)aniline (513 mg, 2.50 mmol) in ethyl acetate (3.0 ml) at room temperature. Ethyl acetate (4.5 ml) was added to the solidified reaction solution and the resulting mixture was slowly heated to 65° C. and stirred for 15 minutes while maintaining the temperature. The resulting reaction solution was cooled to room temperature, followed by adding thereto acetic anhydride (708 μl, 7.50 mmol), tetrabutylammonium bromide (40.3 mg, 0.125 mmol), potassium acetate (491 mg, 5.00 mmol) and isopentyl nitrite (437 μl, 3.25 mmol) in that order at room temperature. The resulting mixture was slowly heated to 65° C. and stirred for 6 hours while maintaining the temperature. After cooling, the mixture was partitioned and extracted with water and ethyl acetate, and the organic layer was washed with a 5% aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to obtain a crude product (800 mg). The crude product was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=9/1 to 6/1) to obtain 1-acetyl-5-methoxy-4-(trifluoromethyl)-1H-indazole (496 mg, 77%).

reactant | Acetic anhydride | 4.00 mmol, 377 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-methoxy-2-methyl-3-(trifluoromethyl)aniline | 2.50 mmol, 513 mg | COC1=C(C(=C(N)C=C1)C)C(F)(F)F | C9H10F3NO
reactant | acetic anhydride | 7.50 mmol, 708 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 5.00 mmol, 491 mg | C(C)(=O)[O-].[K+]
reactant | isopentyl nitrite | 3.25 mmol, 437 μl | N(=O)OCCC(C)C | C5H11NO2
solvent | ethyl acetate | 3.0 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium bromide | 0.125 mmol, 40.3 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Ethyl acetate | 4.5 ml | C(C)(=O)OCC | C4H8O2
product | 1-acetyl-5-methoxy-4-(trifluoromethyl)-1H-indazole | 496 mg, 77% | C(C)(=O)N1N=CC2=C(C(=CC=C12)OC)C(F)(F)F | C11H9F3N2O2
